US07332485B2
(3S,5R)-1-[(Benzyloxy-Formyl-Amino)-Methyl]-3,5-Dimethyl-Cyclohexanecarboxylic Acid
To a cold solution of formic acid (15.5 mL, 0.40 mol) in dichloromethane (75 mL) at 0° C. under a nitrogen atmosphere was added acetic anhydride (5.9 mL, 62 mmol). After 1 h, a solution of (3S,5R)-1-(Benzyloxyamino-methyl)-3,5-dimethyl-cyclohexanecarboxylic acid (1.8 g, 6.2 mmol) in dichloromethane (75 mL) was added. The reaction was stirred at room temperature for 18 h and was concentrated in vacuo. Water (150 mL) was added and the mixture was extracted with dichloromethane (75 mL×5). The combined organic extracts were dried (MgSO4) and were evaporated in vacuo to yield the title compound as a yellow solid (1.59 g, 80%). MH+320.

reactant | formic acid | 0.40 mol, 15.5 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 62 mmol, 5.9 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | (3S,5R)-1-(Benzyloxyamino-methyl)-3,5-dimethyl-cyclohexanecarboxylic acid | 6.2 mmol, 1.8 g | C(C1=CC=CC=C1)ONCC1(C[C@H](C[C@H](C1)C)C)C(=O)O | C17H25NO3
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | (3S,5R)-1-[(Benzyloxy-Formyl-Amino)-Methyl]-3,5-Dimethyl-Cyclohexanecarboxylic Acid | 1.59 g, 80% | C(C1=CC=CC=C1)ON(C=O)CC1(C[C@H](C[C@H](C1)C)C)C(=O)O | C18H25NO4
